US07612067B2
B. 8-(1-ethyl-propyl)-3-[5-(6-methanesulfonyl-pyridin-2-yl)-3-methyl-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazine.
Using a procedure similar to Example 25, 2-bromo-6-methanesulfonyl-pyridine (0.29 mL, 1.22 mmol), 1.3 M n-Bu-Li (0.82 mL, 1.07 mmol), ZnCl2 (2.14 mL, 1.07 mmol), 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.40 g, 1.02 mmol) and PdCl2(dppf) (0.037 g, 0.051 mmol) furnish the title compound (0.13 g, 0.28 mmol, 27%). 1H NMR (CDCl3), 60.88 (t, J=7.5 Hz, 6H), 1.75-1.93 (m, 4H), 2.18 (s, 3H), 2.50 (s, 3H), 2.52 (s, 3H), 3.30 (s, 3H), 3.30-3.38 (m, 1H), 6.70 (s, 1H), 7.64 (s, 1H), 7.83 (dd, J=7.6, 0.8 Hz, 1H), 7.89 (dd, J=7.9, 0.8 Hz, 1H), 7.93 (dd, J=7.9, 7.6 Hz, 1H). LC/MS (m/z): calcd. for C24H28N4O2S2 (M+H)+: 469.3; found: 469.2.

reactant | 2-bromo-6-methanesulfonyl-pyridine | 1.22 mmol, 0.29 mL | BrC1=NC(=CC=C1)S(=O)(=O)C | C6H6BrNO2S
reactant | n-Bu-Li | 1.07 mmol, 1.3 M, 0.82 mL | C(CCC)[Li]
reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.02 mmol, 0.40 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
catalyst | ZnCl2 | 1.07 mmol, 2.14 mL | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2(dppf) | 0.051 mmol, 0.037 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-3-[5-(6-methanesulfonyl-pyridin-2-yl)-3-methyl-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.28 mmol, 0.13 g, 27% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2C)C2=NC(=CC=C2)S(=O)(=O)C | C24H28N4O2S2
